US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-ethyl-N1-propylglycinamide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine and propylamine: 1H NMR (400 MHz, CDCl3) δ 7.63 (d, J=8.8 Hz, 1H), 6.95 (d, J=2.3 Hz, 1H), 6.77 (dd, J=8.8, 2.4 Hz, 1H), 5.99 (bs, 1H), 3.96 (s, 2H), 3.54 (q, J=7.1 Hz, 2H), 3.47 (q, J=7.0 Hz, 2H), 1.46 (m, 2H), 1.25 (t, J=7.1 Hz, 3H), 0.83 (t, J=7.3 Hz, 3H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC)C(F)(F)F | C12H11F3N2O2
reactant | propylamine | C(CC)N | C3H9N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-ethyl-N1-propylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NCCC)CC)C(F)(F)F | C15H18F3N3O
